US06020357
Part A: 4-Iodopyrazole (20 mmol) was treated with Et3N (30 mmol) and (Boc)2O (22 mmol) in THF (60 mL) at r.t. for 2 hours to form N-Boc-4-iodopyrazole (5.88 g, 100%). N-Boc-4-iodopyrazolyle in THF (100 mL) was reacted with hexamethylditin (20 mmol) in the presence of Pd(Ph3P)4 (1.1 g, 1 mmol) under nitrogen at 78° C. overnight. To it was added aqueous 10% KF and the resulting mixture was stirred for 30 minutes, and then filtered through a pad of Celite. The filtrate was extracted with EtOAc. The EtOAc layer was washed with water, and dried over MgSO4. Filtration and concentration followed by purification of the mixture by column chromatography afforded the 3-trimethyltinpyrazole derivative (5 g, 75%) as a white solid.

reactant | 4-Iodopyrazole | 20 mmol | IC=1C=NNC1 | C3H3IN2
reactant | Et3N | 30 mmol | CCN(CC)CC | C6H15N
reactant | (Boc)2O | 22 mmol | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | N-Boc-4-iodopyrazole | 5.88 g, 100% | C(=O)(OC(C)(C)C)N1N=CC(=C1)I | C8H11IN2O2
